US04316906
Hydrolysis of 1-[2-(acetylthio)-1-oxoethyl]-cis-4-(4-methoxyphenoxy)-L-proline with an aqueous ammonia solution according to the procedure of Example 2 yields 1-(2-mercapto-1-oxoethyl)-cis-4-(4-methoxyphenoxy)-L-proline.

reactant | 1-[2-(acetylthio)-1-oxoethyl]-cis-4-(4-methoxyphenoxy)-L-proline | C(C)(=O)SCC(=O)N1[C@H](C(=O)O)C[C@@H](C1)OC1=CC=C(C=C1)OC | C16H19NO6S
reactant | ammonia | N | H3N
product | 1-(2-mercapto-1-oxoethyl)-cis-4-(4-methoxyphenoxy)-L-proline | SCC(=O)N1[C@H](C(=O)O)C[C@@H](C1)OC1=CC=C(C=C1)OC | C14H17NO5S
